MM3 (VOUT1 VIN1 net11 VSS) nmos4
MM0 (net13 VIN2 net11 VSS) nmos4
MM4 (net11 VB1 VSS VSS) nmos4
MM6 (net13 net1002 net016 VDD) pmos4
MM5 (VOUT1 net1002 net014 VDD) pmos4
MM1 (net014 net13 VDD VDD) pmos4
MM2 (net016 net13 VDD VDD) pmos4
MM0 (net1002 net1007 VSS VSS) nmos4
MM1 (net1002 net1002 VB2 VDD) pmos4
MM3 (VB2 VB2 VDD VDD) pmos4
MM2 (VB3 net1007 VSS VSS) nmos4
MM0 (net1007 net1007 VSS VSS) nmos4
MM3 (VB3 VB3 VDD VDD) pmos4
MM1 (net1007 VB3 VDD VDD) pmos4